US05684032
a) ethyl 1-(2-chloro-4,5-methylenedioxybenzyl)-5-hydroxy-3-(4-methylphenyl)indole-2-carboxylate
Following the procedure of Example 1(a)-1(c) except substituting 4-methylphenylboronic acid for phenylboronic acid in step (b), and the procedure of Example 9(a), except substituting ethyl 5-benzyloxy-1-(2-chloro-4,5-methylenedioxybenzyl)-3-(4-methylphenyl)indole-2-carboxylate for ethyl 5-benzyloxy-1-(2-chloro-4,5-methylenedioxybenzyl)-3-phenylindole-2-carboxylate, the title compound was prepared as a white solid (0.304 g, 81%). 1HNMR (400 MHz, CDCl3) δ 7.37 (m, 2H), 7.24 (s, 1H), 7.15 (d, 1H), 6.97 (m, 3H), 6.00 (s, 1H), 5.89 (s, 2H), 5.71 (s, 2H), 4.56 (s, 1H), 4.13 (q, 2H), 2.43 (s, 3H), 1.03 (t, 3H).

reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl 5-benzyloxy-1-(2-chloro-4,5-methylenedioxybenzyl)-3-phenylindole-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=C(C=C2C(=C1)OCO2)Cl)C(=O)OCC)C2=CC=CC=C2 | C32H26ClNO5
product | ethyl 1-(2-chloro-4,5-methylenedioxybenzyl)-5-hydroxy-3-(4-methylphenyl)indole-2-carboxylate | ClC1=C(CN2C(=C(C3=CC(=CC=C23)O)C2=CC=C(C=C2)C)C(=O)OCC)C=C2C(=C1)OCO2 | C26H22ClNO5
